US06500863B1
N-(2-isopropoxyethyl)-2,6-dichloro-3-nitrobenzenesulfonamide
Following the general procedure for sulfonamide formation outlined in example 15, 2,6-dichloro-3-nitrobenzenesulfonyl chloride (1.50 g, 5.16mmol), 2-aminoethyl isopropyl ether (0.533 g, 5.16 mmol) and triethylamine (1.42 mL, 10.32 mmol) were reacted to form the desired product (1.63 g, 89%). LC-MS (m/z) 357.0 (M+).

reactant | 2,6-dichloro-3-nitrobenzenesulfonyl chloride | 5.16mmol, 1.50 g | ClC1=C(C(=CC=C1[N+](=O)[O-])Cl)S(=O)(=O)Cl | C6H2Cl3NO4S
reactant | 2-aminoethyl isopropyl ether | 5.16 mmol, 0.533 g | C(C)(C)OCCN | C5H13NO
reactant | triethylamine | 10.32 mmol, 1.42 mL | C(C)N(CC)CC | C6H15N
product | N-(2-isopropoxyethyl)-2,6-dichloro-3-nitrobenzenesulfonamide | 1.63 g, 89% | C(C)(C)OCCNS(=O)(=O)C1=C(C(=CC=C1Cl)[N+](=O)[O-])Cl | C11H14Cl2N2O5S
